US07618990B2
N-{(2Z)-3-[4-(4-Cyanophenyl)-1,3-thiazol-2-yl]-4,4-dimethyl-1,3-oxazolidin-2-ylidene}acetamide
4-[2-(2-Imino-4,4-dimethyl-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]benzonitrile (0.075 g, 0.25 mmol), prepared in Example 63, was dissolved in tetrahydrofuran (2 mL) followed by triethylamine (0.069 mL, 0.5 mmol) and acetylchloride (0.039 g, 0.5 mmol). The mixture was stirred 4 h, poured into water, extracted with ethyl acetate, and dried over anhydrous MgSO4. The solvent was evaporated and residue triturated with hexane/ethyl acetate (95/5), collected and dried to give the title compound (0.055 g, 64%). HRMS: calcd for C17H16N4O2S+H+, 341.10667; found (ESI, [M+H]+), 341.1075; HPLC purity 96.5% at 210-370 nm, 9.4 min; 96.0% at 250 nm, 9.4 min; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | 4-[2-(2-Imino-4,4-dimethyl-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]benzonitrile | 0.25 mmol, 0.075 g | N=C1OCC(N1C=1SC=C(N1)C1=CC=C(C#N)C=C1)(C)C | C15H14N4OS
reactant | triethylamine | 0.5 mmol, 0.069 mL | C(C)N(CC)CC | C6H15N
reactant | acetylchloride | 0.5 mmol, 0.039 g | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | N-{(2Z)-3-[4-(4-Cyanophenyl)-1,3-thiazol-2-yl]-4,4-dimethyl-1,3-oxazolidin-2-ylidene}acetamide | 0.055 g, 64% | C(#N)C1=CC=C(C=C1)C=1N=C(SC1)N1/C(/OCC1(C)C)=N/C(C)=O | C17H16N4O2S
